US09284296B2
A mixture of 4-Methoxy-[2,2′]bipyridinyl-6-carbonitrile (1.0 g, 4.73 mmol), Palladium hydroxide-Pd 20%-50% in water (0.66 g, excess), ammonium formate (1.5 g, excess) and ethanol (60 mL) was stirred at 27° C. for 2 hours. The reaction was then filtered thorough celite, washed with methanol (150 mL) and dichloromethane (150 mL) and the organic phase evaporated to dryness affording C-(4-Methoxy-[2,2′]bipyridinyl-6-yl)-methylamine as an orange oil (0.80 g, 45%, in a ratio 72 to 28 product vs. byproduct).

reactant | 4-Methoxy-[2,2′]bipyridinyl-6-carbonitrile | 4.73 mmol, 1.0 g | COC1=CC(=NC(=C1)C#N)C1=NC=CC=C1 | C12H9N3O
reactant | ammonium formate | 1.5 g | C(=O)[O-].[NH4+]
reactant | ethanol | 60 mL | C(C)O | C2H6O
solvent | water | 0.66 g | O | H2O
catalyst | Palladium hydroxide Pd | [OH-].[Pd+2].[OH-].[Pd]
product | C-(4-Methoxy-[2,2′]bipyridinyl-6-yl)-methylamine | COC1=CC(=NC(=C1)CN)C1=NC=CC=C1 | C12H13N3O
